US06376501B1
9-Benzyl-8-Hydroxy-2-Pentyladenine
1.09 g (11 mmol) of 4-amino-5-cyanoimidazole and 4.39 g (38 mmol) of hexanamide were stirred at 210° C. for 15 hr with heating under an atmosphere of nitrogen. A mixed solvent composed of DMF (200 ml) and water (50 ml) was added thereto. Further, 3.0 ml of benzyl chloride and 3.00 g of potassium carbonate were added thereto. The resultant mixture stirred at 70° C. for 6 hr under heating. After the solvent was removed by vacuum distillation, the residue was taken into water and extracted with dichloromethane. The organic layer was vacuum-concentrated. The residue was purified by silica gel column chromatography (eluent: dichloromethane:methanol=100:1-50:1) to thereby obtain a solid. This solid and 5.00 g of sodium acetate were dissolved in 40 ml of acetic acid. Then, 2 ml of bromine was added to the solution placed in ice bath. Subsequently, the resultant solution was stirred at 70° C. for 6 hours under heating. After the solvent was removed by vacuum distillation, the residue was extracted with ethyl acetate, and the organic layer was vacuum-concentrated. The residue was purified by column chromatography (eluent: dichloromethane:methanol=100:1) to obtain a solid. This solid was added to 20 ml of concentrated hydrochloric acid and heated for 6 hours under refluxing. After the reaction solution was cooled, its pH was adjusted to 8 with aqueous ammonia. The deposited solid was vacuum-filtered, washed with water and then dried to thereby obtain 0.25 g of the captioned compound (yield: 8%).

reactant | 4-amino-5-cyanoimidazole | 11 mmol, 1.09 g | NC=1N=CNC1C#N | C4H4N4
reactant | hexanamide | 38 mmol, 4.39 g | C(CCCCC)(=O)N | C6H13NO
reactant | benzyl chloride | 3.0 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 3.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium acetate | 5.00 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 2 ml | BrBr | Br2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | N | H3N
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 9-Benzyl-8-Hydroxy-2-Pentyladenine | 0.25 g, yield: 8% | C(C1=CC=CC=C1)N1C2=NC(=NC(=C2N=C1O)N)CCCCC | C17H21N5O
